US08871796B2
A solution of 3-{1-ethyl-4,4-difluoro-5-hydroxy-3-[4-(trifluoromethyl)phenoxy]-4,5-dihydro-1H-pyrazol-5-yl}benzonitrile (crude, 2.1 g, 5.11 mmol), DCM (25.5 mL) and triethylsilane (2.45 mL, 15.3 mmol) was cooled to −78° C. and treated with BF3 etherate (1.94 mL, 15.3 mmol) in a single portion. The reaction was allowed to warm to rt overnight and checked via LCMS at 16 h. The reaction was treated with DBU (3.85 mL, 25.6 mmol) dropwise and checked via LCMS after 30 minutes, requisite product dominates. The reaction was diluted with EtOAc and washed with sat aq. NaHCO3 2×, brine, dried (MgSO4) and concentrated to afford an opaque brown residue purified via MPLC, 100 g silica, 5-35% EtOAc in heptanes to afford 3-{1-ethyl-4-fluoro-3-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-5-yl}benzonitrile as a clear, colorless oil. MS: cal'd 376 (MH+), exp 376 (MH+).

reactant | 3-{1-ethyl-4,4-difluoro-5-hydroxy-3-[4-(trifluoromethyl)phenoxy]-4,5-dihydro-1H-pyrazol-5-yl}benzonitrile | 5.11 mmol, 2.1 g | C(C)N1N=C(C(C1(O)C=1C=C(C#N)C=CC1)(F)F)OC1=CC=C(C=C1)C(F)(F)F | C19H14F5N3O2
reactant | triethylsilane | 15.3 mmol, 2.45 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | BF3 | 15.3 mmol, 1.94 mL | B(F)(F)F | BF3
reactant | DBU | 25.6 mmol, 3.85 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 25.5 mL | C(Cl)Cl | CH2Cl2
product | 3-{1-ethyl-4-fluoro-3-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-5-yl}benzonitrile | C(C)N1N=C(C(=C1C=1C=C(C#N)C=CC1)F)OC1=CC=C(C=C1)C(F)(F)F | C19H13F4N3O
